US09255090B2
Synthesis of 8-chloro-5-cyano-3,4-dihydro-1H-isoquinoline-2-carboxylic acid benzyl ester (C18H15N2O2Cl, MW=326.08)
To a solution of 5-bromo-8-chloro-3,4-dihydro-1H-isoquinoline-2-carboxylic acid benzyl ester (381 mg, 1.00 mmol, 1.00 eq.) in DMAC (2 mL), zinc cyanide (59 mg, 0.50 mmol, 0.50 eq.), tris(dibenzylideneacetone)dipalladium(O) (20 mg, 0.02 mmol, 0.02 eq.), 1,1′-bis-(diphenylphosphino)-ferrocene (15 mg, 0.03 mmol, 0.03 eq.) and poly(methylhydrosiloxane) (20 μL) were added. The resulting mixture was stirred at 150° C. under microwave irradiation for 30 min. The mixture was allowed to cool to r.t. To the previous mixture, zinc cyanide (59 mg, 0.50 mmol, 0.50 eq.), tris(dibenzylideneacetone)dipalladium(O) (20 mg, 0.02 mmol, 0.02 eq.), 1,1′-bis-(diphenylphosphino)-ferrocene (15 mg, 0.03 mmol, 0.03 eq.) and poly(methylhydrosiloxane) (20 μL) were added. The resulting mixture was stirred at 150° C. under microwave irradiation for 30 min. The reaction mixture was diluted with AcOEt and water was added. The layers were separated and the org. layer was dried over MgSO4, filtered over celite, and concentrated in vacuo. The residue was purified by flashmaster (column: 25 g, flow: 30 mL/min, 40 fractions of 30 mL, Heptane+5% AcOEt to Heptane+30% AcOEt) to yield the title compound as a yellow oil.

reactant | 5-bromo-8-chloro-3,4-dihydro-1H-isoquinoline-2-carboxylic acid benzyl ester | 1.00 mmol, 381 mg, 1.00 eq. | C(C1=CC=CC=C1)OC(=O)N1CC2=C(C=CC(=C2CC1)Br)Cl | C17H15BrClNO2
reactant | DMAC | 2 mL | CC(=O)N(C)C | C4H9NO
solvent | AcOEt | CCOC(=O)C | C4H8O2
solvent | water | O | H2O
catalyst | zinc cyanide | 0.50 mmol, 59 mg, 0.50 eq. | [C-]#N.[Zn+2].[C-]#N
catalyst | tris(dibenzylideneacetone)dipalladium(O) | 0.02 mmol, 20 mg, 0.02 eq. | C1=CC=C(C=C1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C1=CC=C(C=C1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd]
catalyst | 1,1′-bis-(diphenylphosphino)-ferrocene | 0.03 mmol, 15 mg, 0.03 eq. | C1(=CC=CC=C1)P([C-]1C=CC=C1)C1=CC=CC=C1.[C-]1(C=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.[Fe+2]
catalyst | zinc cyanide | 0.50 mmol, 59 mg, 0.50 eq. | [C-]#N.[Zn+2].[C-]#N
catalyst | tris(dibenzylideneacetone)dipalladium(O) | 0.02 mmol, 20 mg, 0.02 eq. | C1=CC=C(C=C1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C1=CC=C(C=C1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd]
catalyst | 1,1′-bis-(diphenylphosphino)-ferrocene | 0.03 mmol, 15 mg, 0.03 eq. | C1(=CC=CC=C1)P([C-]1C=CC=C1)C1=CC=CC=C1.[C-]1(C=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.[Fe+2]
product | 8-chloro-5-cyano-3,4-dihydro-1H-isoquinoline-2-carboxylic acid benzyl ester | C(C1=CC=CC=C1)OC(=O)N1CC2=C(C=CC(=C2CC1)C#N)Cl | C18H15ClN2O2
